US05206149
25 g (142.8 mmol) of 4-chlorobenzoyl chloride and 3.0 g (18.6 mmol) of 4-aminoresorcinol hydrochloride were introduced into a three-necked flask provided with a thermometer and a cooling condenser, and the mixture was heated at 170° to 200° C. for 1 hour, then the excessive acid chloride was removed by distillation. To the residue, 8.4 g (210 mmol) of NaOH, 60 ml of THF, 60 ml of water and 30 ml of methanol were added, and the mixture was stirred at room temperature for about 2 hours. The reaction solution was extracted with ethyl acetate, the extract was washed with saturated sodium chloride water solution, and ethyl acetate was distilled off. Recrystallizing the residue with water/methanol/THF and drying the crystal, there was obtained 1.24 g (5.05 mmol) of 2-(4-chlorophenyl)-6-hydroxybenzoxazole. The yield was 27.2%.

reactant | 4-chlorobenzoyl chloride | 142.8 mmol, 25 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | 4-aminoresorcinol hydrochloride | 18.6 mmol, 3.0 g | Cl.NC1=C(C=C(O)C=C1)O
reactant | NaOH | 210 mmol, 8.4 g | [OH-].[Na+]
reactant | THF | 60 ml | C1CCOC1 | C4H8O
solvent | methanol | 30 ml | CO | CH4O
solvent | water | 60 ml | O | H2O
product | 2-(4-chlorophenyl)-6-hydroxybenzoxazole | 5.05 mmol, 1.24 g, yield was 27.2% | ClC1=CC=C(C=C1)C=1OC2=C(N1)C=CC(=C2)O | C13H8ClNO2
